US06008243
A mixture of 2,5-dimethoxy-3-(2-tributylstannylethynyl)-tetrahydrofuran (1.86 g, 4.18 mmol), 4-iodobenzonitrile (1.15 g, 5.02 mmol), and tetrakis(triphenylphosphine) palladium(0) (145 mg, 0.125 mmol) in toluene (25 mL) was heated at 100° C. After 5.5 hours, the resultant red solution was allowed to cool, and the solvent was removed under reduced pressure. Flash column chromatography twice with 10% EtOAc/hex provided 1.10 g (100%) of 3-[2-(4-cyanophenyl)-ethynyl]-2,5-dimethoxy-tetrahydrofuran as an orange oil. A mixture of diastereomers was observed by 1H NMR, which was used without further purification. 1H NMR (CDCl3): 3.12 (ddd, J=2.8, 6.6, 9.0 Hz), 2.57 (ddd, J=5.6, 9.3, 13.4 Hz), 2.08 (dd, J=2.5, 4.7 Hz), 2.04 (dd, J=3.1, 4.3 Hz). IR: 2227, 1603, 1216, 1102, 1012, 841 cm-1. Anal. Calculated for C15H15NO3.0.1 EtOAc: C, 69.51; H, 5.98; N, 5.26. Found: C, 69.52; H, 5.76; N, 5.32.

reactant | 2,5-dimethoxy-3-(2-tributylstannylethynyl)-tetrahydrofuran | 4.18 mmol, 1.86 g | COC1OC(CC1C#C[Sn](CCCC)(CCCC)CCCC)OC
reactant | 4-iodobenzonitrile | 5.02 mmol, 1.15 g | IC1=CC=C(C#N)C=C1 | C7H4IN
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.125 mmol, 145 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-[2-(4-cyanophenyl)-ethynyl]-2,5-dimethoxy-tetrahydrofuran | 1.10 g, 100% | C(#N)C1=CC=C(C=C1)C#CC1C(OC(C1)OC)OC | C15H15NO3
